US07465733B2
Step A: 1-(4-Pyridyl)-1,2,3,4-tetrahydro-1-naphthol
85 ml of a 1.5M solution of n-butyllithium in hexane are added, dropwise, to a solution of 20 g of 4-bromopyridine in 73 ml of ether, cooled to −78° C. Stirring is carried out for 30 minutes at that temperature, a solution of 1-tetralone in 73 ml of ether is then poured in and, at the end of the addition, the mixture is allowed to return to ambient temperature. After stirring overnight, a saturated aqueous solution of ammonium chloride is poured in. After separation, extraction with ether is carried out. The ethereal phases are combined and extracted with 1N hydrochloric acid. The combined acid phases are adjusted to pH=8 using 20% sodium hydroxide solution and extracted with dichloromethane. After drying, the expected product is isolated, which is purified by high-speed chromatography on silica (eluant: dichloromethane/methanol 95/5) to yield the expected product.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-bromopyridine | 20 g | BrC1=CC=NC=C1 | C5H4BrN
reactant | 1-tetralone | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | ether | 73 ml | CCOCC | C4H10O
solvent | ether | 73 ml | CCOCC | C4H10O
product | 1-(4-Pyridyl)-1,2,3,4-tetrahydro-1-naphthol | N1=CC=C(C=C1)C1(CCCC2=CC=CC=C12)O | C15H15NO
